US08058299B2
To a flask containing (S)-3-(5-{[2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carbonyl]-amino}-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (150 mg, 0.249 mmol) was added trifluoroacetic acid (5 mL). When all the starting material was consumed, as indicated by TLC, the reaction mixture was concentrated to dryness. The residue was dissolved in dichloromethane (10 mL) and then cooled to 0° C. Ethyl chloroformate (24 μL, 0.249 mmol) and triethylamine (75.5 mg, 0.747 mmol) were added dropwise, and the reaction mixture was stirred for 2 h at room temperature and then concentrated. The crude product was purified by flash chromatography (Merck silica gel 60, 230-400 mesh, gradient elution with 0%-100% ethyl acetate in hexane) to give (S)-3-(5-{[2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carbonyl]-amino}-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester (61 mg, 42.7% yield) as a light yellow solid. LCMS for C24H21F6N5O5 calculated (m/e) 573.46, found 574.15 (M+H).

reactant | (S)-3-(5-{[2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carbonyl]-amino}-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.249 mmol, 150 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=C(C=CC=C1)OC(F)(F)F | C26H25F6N5O5
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Ethyl chloroformate | 0.249 mmol, 24 μL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.747 mmol, 75.5 mg | C(C)N(CC)CC | C6H15N
product | (S)-3-(5-{[2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carbonyl]-amino}-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester | 61 mg, 42.7% yield | C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=C(C=CC=C1)OC(F)(F)F | C24H21F6N5O5
